*
XU1 MP_01 N001 0 -VCC MP_02 Vout +VCC LM741
R1 N001 N002 100k
R2 Vout N001 100k
V1 N002 0 1
V2 +VCC 0 3
V3 0 -VCC 3
.op
.lib LM741.lib
.backanno
.end
